US07579469B2
A mixture of 1-[4-(3-[1,3]dioxan-2-ylphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one (0.99 g, 2.09 mmol), ethanol (66 mL), water (13.2 mL), and pyridinium p-toluenesulfonic acid (262 mg, 1.04 mmol) was heated at reflux for 3 hours, cooled to room temperature and concentrated in vacuo to remove ethanol. The residue was diluted with ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium bicarbonate and brine, and dried over sodium sulfate. Removal of the volatile in vacuo afforded 3-[4,4,4-trifluoro-3-hydroxy-1,1-dimethyl-3-(4-oxo-4H-quinolin-1-ylmethyl)butyl]benzaldehyde. Yield: 77 mg (89%).

reactant | 1-[4-(3-[1,3]dioxan-2-ylphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1H-quinolin-4-one | 2.09 mmol, 0.99 g | O1C(OCCC1)C=1C=C(C=CC1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C | C26H28F3NO4
reactant | ethanol | 66 mL | C(C)O | C2H6O
reactant | pyridinium p-toluenesulfonic acid | 1.04 mmol, 262 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
solvent | water | 13.2 mL | O | H2O
product | 3-[4,4,4-trifluoro-3-hydroxy-1,1-dimethyl-3-(4-oxo-4H-quinolin-1-ylmethyl)butyl]benzaldehyde | FC(C(CC(C)(C)C=1C=C(C=O)C=CC1)(CN1C=CC(C2=CC=CC=C12)=O)O)(F)F | C23H22F3NO3
